* NMOS Transistors
M1 2 4 6 6 NMOS
M2 2 6 6 6 NMOS
M3 5 3 4 4 NMOS
M4 5 6 4 4 NMOS

* PMOS Transistors
M5 2 3 7 7 PMOS 
M6 2 6 7 7 PMOS
M7 1 8 7 7 PMOS
M8 1 7 7 7 PMOS

* Current Source
I1 4 8 DC ISS

* Voltage nodes
V1 8 0 DC Vin
V2 3 0 DC Vb1
V3 4 0 DC Vb2
V4 5 0 DC Vb3
V5 1 0 DC VDD